US05001157
2-Methyl-N-[[[2-(methylaminocarbonyl)phenyl]amino]thioxomethyl]benzamide
To a stirred mixture of 5.4 g of 2-amino-N-methylbenzamide and 200 ml of ether was added dropwise, a solution of 6.67 g of 2-methylbenzoyl isothiocyanate in 100 ml of ether over 15 minutes. After several hours, the solid was collected, giving 11 g of the desired product as light grey crystals, mp 172°-175° C. (dec.).

reactant | 2-amino-N-methylbenzamide | 5.4 g | NC1=C(C(=O)NC)C=CC=C1 | C8H10N2O
reactant | 2-methylbenzoyl isothiocyanate | 6.67 g | CC1=C(C(=O)N=C=S)C=CC=C1 | C9H7NOS
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2-Methyl-N-[[[2-(methylaminocarbonyl)phenyl]amino]thioxomethyl]benzamide | 11 g | CC1=C(C(=O)NC(=S)NC2=C(C=CC=C2)C(=O)NC)C=CC=C1 | C17H17N3O2S
